US06645990B2
5] To 6-bromo-2-pyridinecarboxaldehyde (400 mg, 2.15 mmol) was added 4-methylpiperidine (0.4 mL, 3.22 mmol) in dry CH2Cl2 (10 mL) to give 2-bromo-6-[(4-methyl)piperidinylmethyl]pyridine as a white solid. MS m/z: 269.4 (M+H). Calc'd for C12H17BrN2: 269.18.

reactant | 6-bromo-2-pyridinecarboxaldehyde | 2.15 mmol, 400 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 4-methylpiperidine | 3.22 mmol, 0.4 mL | CC1CCNCC1 | C6H13N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-6-[(4-methyl)piperidinylmethyl]pyridine | BrC1=NC(=CC=C1)CN1CCC(CC1)C | C12H17BrN2
